US04496560
Thien-2-yl-acetyl chloride (0.88 cc) and triethylamine (0.95 cc) are added successively to a solution, cooled to 5° C., of 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-yl-amino)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (3.85 g) in dry tetrahydrofuran (100 cc), and the mixture is then stirred for 35 minutes at the same temperature. The cooling bath is removed and the mixture is stirred for 1 hour 30 minutes at 23° C. The reaction mixture is poured onto a mixture (50:50 by volume) (400 cc) of ethyl acetate and saturated sodium bicarbonate solution. The phases are allowed to separate and the organic phase is washed successively with distilled water (200 cc) and a saturated sodium chloride solution (200 cc). It is dried over anhydrous magnesium sulphate and filtered, and the filtrate is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue is chromatographed on a column (height: 30 cm, diameter: 3 cm) of silica gel (0.6-0.04 mm), elution being carried out with ethyl acetate (2 liters) and 100 cc fractions being collected. Fractions 5 to 8, containing the pure product, are combined and concentrated under reduced pressure (30 mm Hg; 4 kPa) at 30° C. to give 2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-yl-amino)-thiazol-5-yl]-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.3 g) in the form of a yellow froth.

reactant | Thien-2-yl-acetyl chloride | 0.88 cc | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | triethylamine | 0.95 cc | C(C)N(CC)CC | C6H15N
reactant | 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-yl-amino)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 3.85 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)NC=1C=NC=CC1 | C28H23N5O3S2
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
product | 2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-yl-amino)-thiazol-5-yl]-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC=1C=NC=CC1)NC(CC=1SC=CC1)=O)=O | C34H27N5O4S3
